### PR TITLE
[Merged by Bors] - feat(CstarRing): various lemmas related to the spectral order and the CFC

### PR DESCRIPTION
**Pull request by dupuisf**
This PR proves various lemmas for C*-algebras, such as
- if `a ≤ b`, then `‖a‖ ≤ ‖b‖`
- `star a * b *a ≤ ‖b‖ • (star a * a)`
- if `a` is positive, then `‖a‖ ∈ spectrum ℝ a`.

It also puts an order instance on `Unitization ℂ A`, needed to prove the above.

- [x] depends on: #13650 
- [x] depends on: #13673 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — COMMENTED** [review]
Lots of simplifications. Probably for most to work you need to merge master. You may also need to add the lemmas I suggest.

I'm very happy with how this is working out. Just appealing to the `Unitization` as in normal arguments is great. Thanks for doing this work. It really justifies the design of everything we've done so far.

**Comment by j-loreaux** [comment]
In the long comment above, I think actually we want selfadjoint versions of everything. Here's what I have now. (Sorry for the complicated review; I just kept realizing things weren't quite as nice as we wanted and I knew we would want more lemmas)
```lean
open ComplexOrder in
instance CstarRing.instNonnegSpectrumClassComplex {A : Type*} [NormedRing A] [CompleteSpace A]
    [PartialOrder A] [StarRing A] [StarOrderedRing A] [CstarRing A] [NormedAlgebra ℂ A]
    [StarModule ℂ A] : NonnegSpectrumClass ℂ A where
  quasispectrum_nonneg_of_nonneg a ha x := by
    rw [mem_quasispectrum_iff]
    refine (Or.elim · ge_of_eq fun hx ↦ ?_)
    obtain ⟨y, hy, rfl⟩ := (IsSelfAdjoint.of_nonneg ha).spectrumRestricts.algebraMap_image ▸ hx
    simpa using spectrum_nonneg_of_nonneg ha hy

lemma Real.spectralRadius_mem_spectrum_or {A : Type*} [NormedRing A] [NormedAlgebra ℝ A]
    [CompleteSpace A] {a : A} (ha : (spectrum ℝ a).Nonempty) :
    (spectralRadius ℝ a).toReal ∈ spectrum ℝ a ∨ -(spectralRadius ℝ a).toReal ∈ spectrum ℝ a := by
  obtain ⟨x, hx₁, hx₂⟩ := spectrum.exists_nnnorm_eq_spectralRadius_of_nonempty ha
  simp only [← hx₂, ENNReal.coe_toReal, coe_nnnorm, norm_eq_abs]
  exact abs_choice x |>.imp (fun h ↦ by rwa [h]) (fun h ↦ by simpa [h])

lemma NNReal.spectralRadius_mem_spectrum {A : Type*} [NormedRing A] [NormedAlgebra ℝ A]
    [CompleteSpace A] {a : A} (ha : (spectrum ℝ a).Nonempty)
    (ha' : SpectrumRestricts a ContinuousMap.realToNNReal) :
    (spectralRadius ℝ a).toNNReal ∈ spectrum ℝ≥0 a := by
  rw [← spectrum.algebraMap_mem_iff ℝ, NNReal.algebraMap_eq_coe, ← ENNReal.toReal]
  have := Real.spectralRadius_mem_spectrum_or ha
  rwa [or_iff_left_of_imp (fun h ↦ ?_)] at this
  have : (spectralRadius ℝ a).toReal ≤ 0 :=
    nonpos_of_neg_nonneg <| ha'.rightInvOn h ▸ NNReal.zero_le_coe
  simpa [le_antisymm this ENNReal.toReal_nonneg] using h

lemma Real.spectralRadius_mem_spectrum {A : Type*} [NormedRing A] [NormedAlgebra ℝ A]
    [CompleteSpace A] {a : A} (ha : (spectrum ℝ a).Nonempty)
    (ha' : SpectrumRestricts a ContinuousMap.realToNNReal) :
    (spectralRadius ℝ a).toReal ∈ spectrum ℝ a :=
  NNReal.spectralRadius_mem_spectrum ha ha'

lemma IsSelfAdjoint.toReal_spectralRadius_complex_eq_norm {a : A} (ha : IsSelfAdjoint a) :
    (spectralRadius ℂ a).toReal = ‖a‖ := by
  simp [ha.spectralRadius_eq_nnnorm]

lemma IsSelfAdjoint.toReal_spectralRadius_eq_norm {a : A} (ha : IsSelfAdjoint a) :
    (spectralRadius ℝ a).toReal = ‖a‖ := by
  simp [ha.spectrumRestricts.spectralRadius_eq, ha.spectralRadius_eq_nnnorm]

lemma CstarRing.norm_or_neg_norm_mem_spectrum [Nontrivial A] {a : A}
    (ha : IsSelfAdjoint a := by cfc_tac) : ‖a‖ ∈ spectrum ℝ a ∨ -‖a‖ ∈ spectrum ℝ a := by
  have ha' : SpectrumRestricts a Complex.reCLM := ha.spectrumRestricts
  have := ha.toReal_spectralRadius_eq_norm
  convert Real.spectralRadius_mem_spectrum_or (ha'.image ▸ (spectrum.nonempty a).image _)

lemma CstarRing.nnnorm_mem_spectrum_of_nonneg [Nontrivial A] {a : A} (ha : 0 ≤ a := by cfc_tac) :
    ‖a‖₊ ∈ spectrum ℝ≥0 a := by
  have : IsSelfAdjoint a := .of_nonneg ha
  convert NNReal.spectralRadius_mem_spectrum (a := a) ?_ (.nnreal_of_nonneg ha)
  · simp [this.spectrumRestricts.spectralRadius_eq, this.spectralRadius_eq_nnnorm]
  · exact this.spectrumRestricts.image ▸ (spectrum.nonempty a).image _

lemma CstarRing.norm_mem_spectrum_of_nonneg [Nontrivial A] {a : A} (ha : 0 ≤ a := by cfc_tac) :
    ‖a‖ ∈ spectrum ℝ a := by
  simpa using spectrum.algebraMap_mem ℝ <| CstarRing.nnnorm_mem_spectrum_of_nonneg ha
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 1]
```diff
@@ -747,6 +747,11 @@ lemma cfc_nonneg_iff (f : R → R) (a : A) (hf : ContinuousOn f (spectrum R a) :
   rw [cfc_apply .., cfcHom_nonneg_iff, ContinuousMap.le_def]
   simp
 
+lemma StarOrderedRing.nonneg_iff_spectrum_nonneg (a : A) (ha : p a := by cfc_tac) :
+    0 ≤ a ↔ ∀ x ∈ spectrum R a, 0 ≤ x := by
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:803]: I don't understand -- we're already assuming `NonnegSpectrumClass R A`, but that only gives us one direction of the iff.

**Comment by dupuisf** [comment]
Thanks for the extensive review, @j-loreaux ! I think I've addressed everything except for the two comments I've left open.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:803]: oops, sorry, I misunderstood what was happening here.

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean [hunk 2]
```diff
@@ -6,28 +6,94 @@ Authors: Frédéric Dupuis
...
+variable {A : Type*} [TopologicalSpace A] [Ring A] [StarRing A] [PartialOrder A]
+  [Algebra ℂ A] [ContinuousFunctionalCalculus ℂ (IsStarNormal : A → Prop)]
+  [NonnegSpectrumClass ℝ A]
+
+lemma IsSelfAdjoint.coe_mem_spectrum_complex {a : A} {x : ℝ} (ha : IsSelfAdjoint a := by cfc_tac) :
+    (x : ℂ) ∈ spectrum ℂ a ↔ x ∈ spectrum ℝ a := by
+  simp [← ha.spectrumRestricts.algebraMap_image]
+
+lemma coe_mem_spectrum_real_of_nonneg {a : A} {x : ℝ≥0} (ha : 0 ≤ a := by cfc_tac) :
+    (x : ℝ) ∈ spectrum ℝ a ↔ x ∈ spectrum ℝ≥0 a := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:78]: You should be able to get away with just `Algebra ℝ A` here instead of `Algebra ℂ A`.

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean [hunk 3]
```diff
@@ -6,28 +6,94 @@ Authors: Frédéric Dupuis
...
+  by_cases ha : IsSelfAdjoint a
+  · exact inr_zero ℂ (A := A) ▸ inr_le_iff 0 a
+  · refine ⟨?_, ?_⟩
+    all_goals refine fun h ↦ (ha ?_).elim
+    · exact isSelfAdjoint_inr (R := ℂ) |>.mp <| .of_nonneg h
+    · exact .of_nonneg h
+
+end Unitization
+
+section generic
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:67]: This section should probably move to an earlier file. Perhaps even `Instances`

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean [hunk 4]
```diff
@@ -6,28 +6,94 @@ Authors: Frédéric Dupuis
...
 variable {A : Type*} [NormedRing A] [StarRing A] [CstarRing A] [CompleteSpace A]
 variable [NormedAlgebra ℂ A] [StarModule ℂ A] [PartialOrder A] [StarOrderedRing A]
 
+open ComplexOrder in
+instance CstarRing.instNonnegSpectrumClassComplexUnital : NonnegSpectrumClass ℂ A where
+  quasispectrum_nonneg_of_nonneg a ha x := by
+    rw [mem_quasispectrum_iff]
+    refine (Or.elim · ge_of_eq fun hx ↦ ?_)
+    obtain ⟨y, hy, rfl⟩ := (IsSelfAdjoint.of_nonneg ha).spectrumRestricts.algebraMap_image ▸ hx
+    simpa using spectrum_nonneg_of_nonneg ha hy
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:95]: Can you please move this to the `Instances` file, next to the corresponding `NonnegSpectrumClass ℝ A` instance?

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean [hunk 5]
```diff
@@ -44,10 +110,86 @@ lemma IsSelfAdjoint.neg_algebraMap_norm_le_self {a : A} (ha : IsSelfAdjoint a :=
...
+
+variable {A : Type*} [NonUnitalNormedRing A] [CompleteSpace A] [PartialOrder A] [StarRing A]
+  [StarOrderedRing A] [CstarRing A] [NormedSpace ℂ A] [StarModule ℂ A]
+  [SMulCommClass ℂ A A] [IsScalarTower ℂ A A]
+
+open ComplexOrder in
+instance CstarRing.instNonnegSpectrumClassComplexNonUnital : NonnegSpectrumClass ℂ A where
+  quasispectrum_nonneg_of_nonneg a ha x hx := by
+    rw [Unitization.quasispectrum_eq_spectrum_inr' ℂ ℂ a] at hx
+    exact spectrum_nonneg_of_nonneg (Unitization.inr_nonneg_iff.mpr ha) hx
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:155]: Same here

File: Mathlib/Analysis/NormedSpace/Star/Spectrum.lean [hunk 6]
```diff
@@ -69,6 +69,10 @@ theorem IsSelfAdjoint.spectralRadius_eq_nnnorm {a : A} (ha : IsSelfAdjoint a) :
   simp
 #align is_self_adjoint.spectral_radius_eq_nnnorm IsSelfAdjoint.spectralRadius_eq_nnnorm
 
+lemma IsSelfAdjoint.toReal_spectralRadius_complex_eq_norm {a : A} (ha : IsSelfAdjoint a) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/Star/Spectrum.lean:72]: Please add a note in a docstring pointing the `ℝ` version, so that people know it exists.

**Review by j-loreaux — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean (hunk 3 above)
Comment (dupuisf) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:67]: `#find_home` tells me to just leave both of them in this file; I'm not sure it's worth adding imports to earlier files just for this.

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean (hunk 5 above)
Comment (dupuisf) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:155]: This also can't go in `Instances` because of `Unitization.inr_nonneg_iff` (which also must stay in this file according to `#find_home`).

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:67]: I think `#find_home` is lying to you (at least I strongly suspect it is). Did you also try `#find_home!`?

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:148]: fair enough here.

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean (hunk 3 above)
Comment (dupuisf) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean:67]: Hmm, I had no idea `#find_home` was suboptimal somehow. Anyway, so `coe_mem_spectrum_real_of_nonneg` could go in `Analysis.NormedSpace.Spectrum` if it weren't for the `cfc_tac` autoparam. Maybe it would make sense to define the tactic in a much earlier file, it's not like it actually needs the CFC to be defined.

Comment (dupuisf) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Order.lean]: OK, so I moved the CFC tactics to the new file`Mathlib.Tactic.ContinuousFunctionalCalculus` and moved those two lemmas to earlier files.
